US04512795
35 parts of 30 percent strength aqueous H2O2 were added dropwise, in the course of 1 hour, to 50 parts of 8-(4-bromophenyl)-12-hydroxy-3,4,8,9,10-pentazatetracyclo[5,4,1,02,5,07,11 ]dodec-9ene (Compound No. 69) in 400 parts of methanol and 5 parts of 25 percent strength by weight aqueous NaOH, at 65° C., while stirring, and stirring was continued for 5 hours at 65° C. The mixture was cooled to 20° C., after which 1,500 parts of water were added, and the product was filtered off under suction, washed with 300 parts of water and dried at 30° C. under 1 mbar. 44 parts (88 mole %) of 8-(4-bromophenyl)-12hydroxy-3,4,8,9,10-pentazatetracyclo[5,4,1,02,5,07,11 ]-dodeca-3,9-diene of melting point 187° C. (decomposition) were obtained (Compound No. 3).

reactant | H2O2 | OO | H2O2
reactant | 8-(4-bromophenyl)-12-hydroxy-3,4,8,9,10-pentazatetracyclo[5,4,1,02,5,07,11 ]dodec-9ene | BrC1=CC=C(C=C1)N1C23CC4NNC4C(C2N=N1)C3O | C13H14BrN5O
reactant | methanol | CO | CH4O
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 8-(4-bromophenyl)-12hydroxy-3,4,8,9,10-pentazatetracyclo[5,4,1,02,5,07,11 ]-dodeca-3,9-diene | BrC1=CC=C(C=C1)N1C23CC4N=NC4C(C2N=N1)C3O | C13H12BrN5O
